US07368578B2
A solution (70 mL) of ethyl 3-amino-1-phenyl-1H-pyrazole-4-carboxylate (17.2 g) in tetrahydrofuran was added dropwise to a mixture of lithium aluminum hydride (3.39 g) and tetrahydrofuran (130 mL) on an ice bath. The reaction mixture was heated under reflux for 2 hrs. To this reaction mixture was added sodium sulfate decahydrate by small portions with stirring until foams disappeared on an ice bath, and tetrahydrofuran (50 mL) was further added. After further stirring for 2 hrs., the reaction mixture was filtered, and the filtrate was concentrated. Recrystallization of the residue from tetrahydrofuran-hexane gave (3-amino-1-phenyl-1H-pyrazol-4-yl)methanol as pale-yellow crystals (10.02 g, yield 82%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 127-128° C.

reactant | ethyl 3-amino-1-phenyl-1H-pyrazole-4-carboxylate | 70 mL, 17.2 g | NC1=NN(C=C1C(=O)OCC)C1=CC=CC=C1 | C12H13N3O2
reactant | lithium aluminum hydride | 3.39 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | (3-amino-1-phenyl-1H-pyrazol-4-yl)methanol | 10.02 g, yield 82% | NC1=NN(C=C1CO)C1=CC=CC=C1 | C10H11N3O
